US04419263
A solution of 6 g of 4-cyanocyclohexanone in 50 ml of diethyl ether is added dropwise, while stirring, at room temperature and during the course of 1.5 hours, to a Grignard solution prepared from 13 g of 1-(4-n-pentylphenyl)-2-bromoethane and 1.3 g of magnesium turnings in 200 ml of diethyl ether. The reaction mixture is then heated under reflux to the boil for 2 hours, and, after it has cooled, 150 ml of 10% aqueous ammonium chloride solution is added to it, while stirring. The ether phase is separated off, dried over sodium sulfate and evaporated. The residual 1-(4-n-pentylphenyl)-2-(4-cyano-1-hydroxycyclohex-1-yl)-ethane is dissolved in 40 ml of acetone and this solution is heated to the boil for 1 hour with 0.5 g of p-toluenesulfonic acid. The solvent is then distilled off and the residue is taken up in 100 ml of ethanol. After the addition of 20 mg of copper (II) sulfate, 23 g of hydrazine hydrate and 40 ml of 30% aqueous hydrogen peroxide solution are added successively to the mixture at 0°. The reaction mixture is stirred for 1 hour at room temperature and poured into 500 ml of water, and the 1-(4-n-pentylphenyl)-2-(trans-4-cyanocyclohexyl)-ethane thus obtained is extracted with diethyl ether; the extracts are dried with sodium sulfate and evaporated, and the residue is recrystallized from isopropanol.

reactant | 4-cyanocyclohexanone | 6 g | C(#N)C1CCC(CC1)=O | C7H9NO
reactant | 1-(4-n-pentylphenyl)-2-bromoethane | 13 g | C(CCCC)C1=CC=C(C=C1)CCBr | C13H19Br
reactant | magnesium | 1.3 g | [Mg] | Mg
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 1-(4-n-pentylphenyl)-2-(trans-4-cyanocyclohexyl)-ethane | C(CCCC)C1=CC=C(C=C1)CC[C@@H]1CC[C@H](CC1)C#N | C20H29N
